US07977340B2
Step 2. 3,5-Diiodoaniline
To a solution of 1,3-diiodo-5-nitro-benzene (15.80 g, 0.042 mol) in ethanol (200 mL) was added SnCl2.2H2O (28.50 g, 0.13 mol) portion wise at room temperature. The reaction mixture was heated under reflux at 80° C. for 1.5 h. After cooling to room temperature, the solvent was evaporated under reduced pressure and the crude solid thus obtained was basified with 4N NaOH solution to pH 12. The mixture was extracted with ethyl acetate (×3) and the combined organic layer was washed with brine solution and dried over Na2SO4. The solvent was removed under reduced pressure, to give the desired compound as a yellow solid (11.0 g, 75%).

reactant | 1,3-diiodo-5-nitro-benzene | 0.042 mol, 15.80 g | IC1=CC(=CC(=C1)[N+](=O)[O-])I | C6H3I2NO2
reactant | SnCl2.2H2O | 0.13 mol, 28.50 g | O.O.Cl[Sn]Cl
reactant | NaOH | 4N | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3,5-Diiodoaniline | 11.0 g, 75% | IC=1C=C(N)C=C(C1)I | C6H5I2N
